US07282588B2
1,1-dimethylethyl 4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1 (2H)-pyridinecarboxylate
Following the procedure described for Intermediate 11 with 4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1 (2H)-pyridinecarboxylate and 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole gave the title compound. ESMS [M+H]+: 655.4

reactant | 4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1 (2H)-pyridinecarboxylate | BrC1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)[O-])S(=O)(=O)C2=CC=CC=C2
reactant | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
product | 1,1-dimethylethyl 4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1 (2H)-pyridinecarboxylate | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C34H34N6O6S
